nmos_saturation
.include TSMC_180nm.txt
.param supply=1.8
.param LAMBDA=0.09u
.param L_n=2*LAMBDA
.param width_N = 20*LAMBDA

M1 nd ng gnd gnd CMOSN W={width_N} L={L_n}
+ AS={5*width_N*LAMBDA}
+ PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA}
+ PD={10*LAMBDA+2*width_N}

Vds nd gnd 1.8
Vgs ng gnd {supply}
.dc Vgs 0 1.8 10m

.control
run
let Id=-i(Vds)
let gm=deriv(Id)
plot Id vs v(ng)
plot gm vs v(ng)
let gm_max = vecmax(gm) 
meas dc VGS_at_gm_max MAX_AT gm
meas dc IDS_at_gm_max FIND Id WHEN v-sweep=VGS_at_gm_max
print gm_max
print VGS_at_gm_max
print IDS_at_gm_max
set hcopypscolor=1
hardcopy Id_vs_Vgs.eps Id vs v(ng)
hardcopy gm_vs_Vgs.eps gm vs v(ng)
.endc
.end